US06774136B2
The reaction of 19.8 ml (0.200 mol) piperidine and 10.1 ml (0.100 mol) benzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 6.0 ml (0.160 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 11.7 g (corresponding to 56% of the yield calculated by theory) 1-benzylidene-piperidinium chloride.

reactant | piperidine | 0.200 mol, 19.8 ml | N1CCCCC1 | C5H11N
reactant | benzaldehyde | 0.100 mol, 10.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetyl chloride | 0.160 mol, 6.0 ml | C(C)(=O)Cl | C2H3ClO
product | 1-benzylidene-piperidinium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCCCC1 | InChI=1S/C12H16N.ClH/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;/h1,3-4,7-8,11H,2,5-6,9-10H2;1H/q+1;/p-1
